US05393459
0.1 mol of methyl 4-hydroxybenzoate, 0.1 mol of (S)-2-fluoro-1-octanol and 0.12 mol of triphenylphosphine are dissolved in 250 ml of tetrahydrofuran, and 0.12 mol of diethyl azodicarboxylate is added dropwise with stirring and ice cooling. The mixture is allowed to warm to room temperature, and is then stirred for a further 8 hours. The solvent is then distilled, and the methyl 4-(2-fluorooctyloxy)benzoate is purified by column chromatography. Saponification using aqueous/alcoholic potassium hydroxide solution gives (S)-4-(2-fluorooctyloxy)benzoic acid.

reactant | methyl 4-hydroxybenzoate | 0.1 mol | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | (S)-2-fluoro-1-octanol | 0.1 mol | F[C@H](CO)CCCCCC | C8H17FO
reactant | triphenylphosphine | 0.12 mol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.12 mol | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | (S)-4-(2-fluorooctyloxy)benzoic acid | F[C@H](COC1=CC=C(C(=O)O)C=C1)CCCCCC | C15H21FO3
